US07902187B2
(R)-2-amino-6-chloro-9-(8-fluorochroman-4-yl)-7H-purin-8(9H)-one.
To a solution of (R)-6-chloro-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine (0.9 g, 2.91 mmol) in 900 mL of anhydrous THF at −78° C. under Ar was added dropwise, over 20 min, a solution of phosgene in THF (2.6 mL of a 20% solution of phosgene in toluene, 4.94 mmol, 1.7 equiv., diluted with 26 mL of anhydrous THF). The reaction mixture was left to gradually warm up to room temperature over 16 h. It was purged with air for 30 min. The solvent was then removed in vacuo, and the residue was taken in ethyl acetate/saturated aqueous NaHCO3. The layers were separated, and the aqueous layer extracted with ethyl acetate three times. The combined organic extracts were put together, dried (anhydrous Na2SO4) and the solvent removed in vacuo. The residue was purified by flash chromatography (silica gel, gradual elution with 6/1 to 4/1 methylene chloride/ethyl acetate) to give 0.78 g (80% yield) of the desired product as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ, ppm: 7.13-7.06 (m, 1H), 6.90-6.82 (m, 1H), 6.75-6.72 (m, 1H), 5.92-5.82 (m, 1H), 4.80-4.73 (m, 1H), 4.50-4.42 (m, 1H), 3.20-3.05 (m, 1H), 2.42-2.30 (m, 1H); MS (EI) m/z 336.3 (MH)+.

reactant | (R)-6-chloro-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine | 2.91 mmol, 0.9 g | ClC1=C(C(=NC(=N1)N)N[C@@H]1CCOC2=C(C=CC=C12)F)N | C13H13ClFN5O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | THF | 900 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | (R)-2-amino-6-chloro-9-(8-fluorochroman-4-yl)-7H-purin-8(9H)-one | 0.78 g, 80% yield | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CCOC2=C(C=CC=C12)F)=O)Cl | C14H11ClFN5O2
